US07985491B2
To 14 g of 1-bromo-4-phenylnaphthalene synthesized in accordance with a conventional process or by the reaction of 1-bromo-4-iodo-naphthanlene and phenylboronic acid, 130 ml of anhydrous ether and 50 ml of anhydrous toluene were added, and the reaction system was purged with argon and cooled at −40° C. To the cooled mixture, 37 ml of a 1.6 M hexane solution of normal-butyllithium was added dropwise, and the resultant mixture was stirred for 1 hour. After the obtained mixture was heated to −5° C. and then cooled to −40° C., a solution obtained by diluting 34 ml of boronic acid triisopropyl ester with ether was added dropwise, and the resultant mixture was stirred for 3.5 hours and then left standing for one night. After the resultant mixture was acidified with a 10% dilute hydrochloric acid, the reaction mixture was subjected to extraction with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried with anhydrous sodium sulfate, and the solvent was removed using an evaporator. The obtained white solid substance was washed with methylene chloride and dried, and 10 g of 1-phenylnaphthalene-4-boronic acid was obtained as white crystals (the yield: 80%).

reactant | 1-bromo-4-phenylnaphthalene | 14 g | BrC1=CC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C16H11Br
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 130 ml | CCOCC | C4H10O
product | 1-phenylnaphthalene-4-boronic acid | 10 g, yield: 80% | C1(=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)B(O)O | C16H13BO2
